US05236849
(2) Preparation of N-biotinyl-2-mercaptoethylamine
An aliquot (0.1 ml) of 44 mM biotin-N-hydroxysuccinimide (Zymed Laboratories, Inc., San Francisco, Calif.) in N,N-dimethylformamide was incubated with 1.0 ml of 4.4 mM 2-mercaptoethylamine in 0.1M sodium phosphate buffer, pH 7.0, containing 5 mM EDTA, at 30° C. for 30 minutes, and 0.1 ml of 1M Tris-HCl buffer, pH 7.0, was added.

reactant | biotin-N-hydroxysuccinimide | 44 mM, 0.1 ml | ON1C(CCC1=O)=O.OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12
reactant | 2-mercaptoethylamine | 4.4 mM, 1.0 ml | SCCN | C2H7NS
reactant | EDTA | 5 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | Tris-HCl | 1M, 0.1 ml | C(C(CO)(CO)N)O.Cl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | sodium phosphate | 0.1M | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
product | N-biotinyl-2-mercaptoethylamine | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)NCCS | C12H21N3O2S2
